US07109148B2
A mixture of 11.02 g of isoamyl nitrite and 45 ml of acetonitrile was added dropwise to a mixture of 15.16 g of methyl [2-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate, 6.21 g of copper (I) chloride, 12.65 g of copper (II) chloride, and 250 ml of acetonitrile at room temperature, and the mixture was stirred for 2 hours. The reaction mixture was poured into 2% hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 13 g of methyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate (compound a-5).

reactant | isoamyl nitrite | 11.02 g | N(=O)OCCC(C)C | C5H11NO2
reactant | methyl [2-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 15.16 g | NC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H17F4N3O6
reactant | hydrochloric acid | Cl | ClH
catalyst | copper (I) chloride | 6.21 g | [Cu]Cl
catalyst | copper (II) chloride | 12.65 g | [Cu](Cl)Cl
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | methyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 13 g | ClC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H15ClF4N2O6
